US07888364B2
4-Chloro-3-(pyridin-2-yl)aniline (687 mg, 3.36 mmol) was dissolved in dichloromethane (8.0 ml) and THF (8.0 ml), treated with pyridine (0.33 ml, 4.0 mmol), and cooled to 0° C. 4-Cyanobenzoyl chloride (612 mg, 3.7 mmol) was added and the reaction was stirred for 1.0 hour. The reaction was diluted with dichloromethane and methanol was added to dissolve all solids. The solution was washed with water once, brine once, dried with MgSO4, and evaporated to an orange solid which was purified by silica gel flash column chromatography (50% ethyl acetate/50% hexanes) to afford 908 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-cyanobenzamide as a yellow solid. N-(4-Chloro-3-(pyridin-2-yl)phenyl)-4-cyanobenzamide (500 mg, 1.5 mmol) was slurried in ethanol (75 ml) and heated until just dissolved. The solution was cooled in an ice bath, and saturated with HCl gas. The solution was heated briefly to 70° C. to dissolve precipitated solids, cooled in an ice bath, and resaturated with HCl gas. The solution was then stored at 0° C. for 18 hours. The solution was saturated again with HCl gas, heated to 70° C. until all solids dissolved, cooled to 0° C., resaturated with HCl gas, and stored at 0° C. for 18 hours. Finally, nitrogen gas was bubbled through the solution for 1.0 hour, and the solution was evaporated to dryness. The residue was dissolved in methanol, treated with MP-carbonate (2.57 g) and stirred 30 min. The solution was filtered to afford a neutral, methanolic solution of ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate, which was diluted with enough methanol to make a 0.075 M solution.

reactant | N-(4-Chloro-3-(pyridin-2-yl)phenyl)-4-cyanobenzamide | 1.5 mmol, 500 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C#N)=O)C1=NC=CC=C1 | C19H12ClN3O
reactant | HCl | Cl | ClH
reactant | ethanol | 75 ml | C(C)O | C2H6O
product | ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(OCC)=N)C=C1)C1=NC=CC=C1 | C21H18ClN3O2
